US07915443B2
3-{4-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}propanoic acid
A solution of Methyl 3-{4-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}propanoate (0.075 g, 0.129 mmol) in THF (3 mL) was cooled to 0° C. and slowly treated with 0.5M NaOH (1.29 mL, 0.643 mmol). The reaction mixture was allowed to slowly come to room temperature. Once the reaction was done by TLC, the reaction was acidified with acetic acid and then extracted with EtOAc (20 mL) and H2O (20 mL). The organic layer was dried over anhydrous Na2SO4(s), filtered, and concentrated to give the title compound (0.052 g, 71%).

reactant | Methyl 3-{4-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}propanoate | 0.129 mmol, 0.075 g | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C1=CC=C(C=C1)CCC(=O)OC)C | C31H29N5O5S
reactant | NaOH | 0.643 mmol, 0.5M, 1.29 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-{4-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}propanoic acid | 0.052 g, 71% | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C1=CC=C(C=C1)CCC(=O)O)C | C30H27N5O5S
